US05744471
7-Chloro-4-hydroxy-2-(thiophen-2-ylmethyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione.
To a solution of 2-(thiophen-2-ylmethyl)-t-butylcarbazate (1.0 g, 4.4 mM) and 2-pyrrolamido-3-carboxy-7-chloroquinoline-4-one (1.2 g, 3.6 mM) in tetrahydrofuran (75 mL) stirred at room temperature, was added diisopropylcarbodiimide (0.84 mL, 5.4 mM). This mixture was stirred at room temperature for 2.5 hours, then suction filtered into a second reaction flask. To the filtrate (stirred at room temperature) was added methanesulfonic acid (12 mL, 185 mM). The resulting solution was stirred 17 hours at room temperature. TLC analyses at this time indicated completereaction. The reaction mixture was poured into ice water (200 mL). This suspension was stirred about 15 minutes and filtered. The filter cake was washed with water and ether, then vacuum dried to yield the desired compound analytically pure (1.1 g, 84%).

reactant | 2-(thiophen-2-ylmethyl)-t-butylcarbazate | 4.4 mM, 1.0 g | S1C(=CC=C1)CN(C(=O)[O-])NC(C)(C)C
reactant | 2-pyrrolamido-3-carboxy-7-chloroquinoline-4-one | 3.6 mM, 1.2 g | N1C(=CC=C1)C(=O)NC1=NC2=CC(=CC=C2C(C1C(=O)O)=O)Cl | C15H10ClN3O4
reactant | diisopropylcarbodiimide | 5.4 mM, 0.84 mL | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 7-Chloro-4-hydroxy-2-(thiophen-2-ylmethyl)-1,2,5,10-tetrahydropyridazino[4,5-b]quinoline-1,10-dione | ClC=1C=CC=2C(C3=C(NC2C1)C(=NN(C3=O)CC=3SC=CC3)O)=O | C16H10ClN3O3S
